US07514419B2
To a stirred solution of 3,5-diiodo-4-(4′-methoxy-3′-iso-propylphenoxy)phenol (0.28 g, 0.55 mmol) in dichloromethane (17.0 mL) at −78° C. was added BBr3 (13.1 mL, 13.1 mmol, 1.0 M solution in CH2Cl2). The reaction mixture was stirred at −78° C. for 10 min, allowed to warm to room temperature and stirred for 16 h. The reaction mixture was poured into ice and extracted with CH2Cl2 (20 mL×2). The organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with acetone-hexanes (3:7) to afford 3,5-diiodo-4-(4′-hydroxy-3′-iso-propylphenoxy)phenol as an off-white solid (0.18 g, 66%): 1H NMR (300 MHz, DMSO-d6): δ 9.95 (s, 1H), 8.91 (s, 1H), 7.27 (s, 2H), 6.62 (d, J=9.0 Hz, 1H), 6.56 (d, J=3.0 Hz, 1H), 6.18 (m, 1H), 3.72 (s, 3H), 3.14 (m, 1H), 1.10 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-acetone (7:3); Rf=0.28.

reactant | 3,5-diiodo-4-(4′-methoxy-3′-iso-propylphenoxy)phenol | 0.55 mmol, 0.28 g | IC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)I)O | C16H16I2O3
reactant | BBr3 | 13.1 mmol, 1.0 M, 13.1 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 17.0 mL | ClCCl | CH2Cl2
product | 3,5-diiodo-4-(4′-hydroxy-3′-iso-propylphenoxy)phenol | 0.18 g, 66% | IC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)I)O | C15H14I2O3
